US04301169
(i) Synthesis of 1-(4-methyl-3-nitrophenyl)-2-hydroxymethylimidazole
In a sealed tube, 12 g of 1-(4-methyl-3-nitrophenyl)-imidazole was reacted with 12 ml of 37% formalin at 140° C. for 12 hours, and 6 ml of 37% formalin was further added and reaction was conducted for 9 hours under the same conditions as described above. The reaction mixture was cooled and water was added thereto. The precipitated crystal was recovered by filtration, dried and recrystallized from dimethyl formamide to obtain 10.2 g of the intended compound having a melting point of 185° C. Elementary analysis values as C11H11N3O4 were as follows.

reactant | 1-(4-methyl-3-nitrophenyl)-imidazole | 12 g | CC1=C(C=C(C=C1)N1C=NC=C1)[N+](=O)[O-] | C10H9N3O2
reactant | formalin | 12 ml | C=O | CH2O
reactant | formalin | 6 ml | C=O | CH2O
solvent | water | O | H2O
product | 1-(4-methyl-3-nitrophenyl)-2-hydroxymethylimidazole | 10.2 g | CC1=C(C=C(C=C1)N1C(=NC=C1)CO)[N+](=O)[O-] | C11H11N3O3
